US04866065
b. Ethyl 2-(N'-methylureido)-thiophene-3-carboxylate
To a stirred soIution of ethyl 2-amino-thiophene-3-carboxylate (5,0 g, 29 mmol) and triethylamine (4,1 ml, 29 mmol) in dry tetrahydrofuran (100 ml) was added a 20% solution of phosgene in toluene (16 ml, 32 mmol). The mixture was heated to reflux for 3 h, then cooled to room temperature and exposed to a gaseous stream of methylamine for 10 min. After additional stirring for 30 min., the mixture was filtered and the filtrate was evaporated in vacuo, whereafter the crystalline residue was suspended in water, filtered off, and dried to give the title compound as colourless crystals, m.p. 127° C.

reactant | ethyl 2-amino-thiophene-3-carboxylate | 29 mmol, 5,0 g | NC=1SC=CC1C(=O)OCC | C7H9NO2S
reactant | triethylamine | 29 mmol, 4,1 ml | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 32 mmol, 16 ml | C1(=CC=CC=C1)C | C7H8
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Ethyl 2-(N'-methylureido)-thiophene-3-carboxylate | CNC(NC=1SC=CC1C(=O)OCC)=O | C9H12N2O3S
